US08349851B2
To 2-amino-4-methoxybenzamide (7.0 g, 42 mmol) in 1,2-dichloroethane (100 mL) was added boron tribromide (25 g, 100 mmol) at rt. After heating for 40° C. for 20 h, 1 N boron tribromide in THF (40 mL) was added, and the reaction was heated to 50° C. for 20 h. The mixture was cooled and quenched by addition of aq. sodium bicarbonate. The resulting precipitate was collected by filtration to afford 2-amino-4-hydroxybenzamide as a white solid (2.0 g). The mother liquors were concentrated, diluted with MeOH., filtered and concentrated. The residue was again diluted with MeOH, filtered and concentrated, and the resulting residue was chromatographed on silica gel eluting with 5-15% MeOH/DCM to give 2-amino-4-hydroxybenzamide as a white solid (4.7 grams). The solids were combined for a total yield of 6.7 g (quantitative). 1H NMR (300 MHz, DMSO-d6) δ ppm 5.91 (dd, J=8.67, 2.26 Hz, 1 H) 6.03 (d, J=2.45 Hz, 1 H) 6.62 (br. s., 2 H) 7.38 (d, J=8.67 Hz, 1H) 9.45 (s, 1 H). LC-MS (ESI) m/z 153 (M+H)+.

reactant | 2-amino-4-methoxybenzamide | 42 mmol, 7.0 g | NC1=C(C(=O)N)C=CC(=C1)OC | C8H10N2O2
reactant | boron tribromide | 100 mmol, 25 g | B(Br)(Br)Br | BBr3
reactant | boron tribromide | 1 N | B(Br)(Br)Br | BBr3
solvent | 1,2-dichloroethane | 100 mL | ClCCCl | C2H4Cl2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 2-amino-4-hydroxybenzamide | 2.0 g | NC1=C(C(=O)N)C=CC(=C1)O | C7H8N2O2
